US06225306B1
(3aS)-1,2,3,3a,4,5-Hexahydro-Pyrrolo[1,2-a]Quinoxalin-4-One
The 1-(2-nitrophenyl)-L-proline (1.56 g) obtained in Reference Example 1 was catalytically reduced at ordinary temperature, in the presence of 0.6 g of a 10% palladium-carbon catalyst, in 150 ml of methanol. After completion of the reaction, the catalyst was removed and then the reaction solution was concentrated to dryness to give 1.04 g (yield 83.3%) of the title compound.

reactant | 1-(2-nitrophenyl)-L-proline | 1.56 g | [N+](=O)([O-])C1=C(C=CC=C1)N1[C@H](C(=O)O)CCC1 | C11H12N2O4
catalyst | palladium-carbon | [C].[Pd]
solvent | methanol | 150 ml | CO | CH4O
product | (3aS)-1,2,3,3a,4,5-Hexahydro-Pyrrolo[1,2-a]Quinoxalin-4-One | 1.04 g, yield 83.3% | C1CC[C@@H]2N1C1=CC=CC=C1NC2=O | C11H12N2O
